US04280011
Hydrolysis of 1,2-di[(1'Ethoxy)Ethoxy]Propane at pH 7.5
A 99.5 g. portion of water in an ether bottle was adjusted to pH 7.5 with potassium hydroxide. The basic solution was heated to between 90°-95° C. and 0.5 g. of 1,2-di(1'-ethoxy)ethoxy propane was added just prior to sealing the bottle, which contained a magnetic stirrer. The solution was heated at 100° C. for five hours with stirring, then cooled. U.V. spectrophotometry showed an absorbance value of 0.380 versus 0.400 theoretical, indicating almost 100% hydrolysis of the acetal.

reactant | water | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1,2,3,4,5,6-hexa[(1'-ethoxy)ethoxy]hexane | C(C)OC(C)OCC(C(C(C(COC(C)OCC)OC(C)OCC)OC(C)OCC)OC(C)OCC)OC(C)OCC | C30H62O12
solvent | ether | CCOCC | C4H10O
product | 1,2-di[(1'Ethoxy)Ethoxy]Propane | C(C)OC(C)OCC(C)OC(C)OCC | C11H24O4
